US09399623B2
6-Chloro-2-((R)-3-fluoropyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide (1)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide, DIPEA and (R)-3-fluoropyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.75 (m, 1H), 7.55 (2H), 7.05 (1H), 5.43-5.56 (1H), 3.89 (m, 2H), 3.70 (m, 1H), 3.55 (m, 1H), 3.26 (m, 2H), 2.44 (m, 2H), 2.06 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 5H), 1.27-1.32 (m, 2H). m/z: 426 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide | FC1(CC(CCC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-fluoropyrrolidine | F[C@H]1CNCC1 | C4H8FN
product | 6-Chloro-2-((R)-3-fluoropyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide | FC1(CC(CCC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1C[C@@H](CC1)F)F | C21H23ClF3N3O
